US06562828B1
4-[4-(2-Amino-5-cyanophenylcarbamoylmethoxy)phenyloxy]piperidine-1-carboxylic Acid tert-Butyl Ester
To a solution of 3,4-diaminobenzonitrile (474 mg), 4-(1-tert-butoxycarbonylpiperidin-4-yloxy)phenoxyacetic acid (1.25 g) in tetrahydrofuran (50 ml) was added 1-ethoxycarbonyl-2-ethoxy-1,2-dihydroxyquinoline (1.06 g) with ice-cooling, and the mixture was stirred at room temperature for 16 hours. After completion of the reaction, the solvent was evaporated and to the obtained residue were added chloroform and hexane. The resultant solid was collected by filtration and dried under reduced pressure to give the title compound (1.55 g).

reactant | 3,4-diaminobenzonitrile | 474 mg | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | 4-(1-tert-butoxycarbonylpiperidin-4-yloxy)phenoxyacetic acid | 1.25 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(OCC(=O)O)C=C1 | C18H25NO6
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-[4-(2-Amino-5-cyanophenylcarbamoylmethoxy)phenyloxy]piperidine-1-carboxylic Acid tert-Butyl Ester | 1.55 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)OCC(NC1=C(C=CC(=C1)C#N)N)=O | C25H30N4O5
